US04946855
To a mixture of thiourea (2.18 g, 28.6 mmol) and p-methylacetophenone (1.92 ml, 14.3 mmol) was added dropwise sulfuryl chloride (1.264 ml, 15.74 mmol) and the resulting mixture was stirred at room temperature for 10 minutes (until solidification was complete). The reaction mixture was allowed to react at 105° C. for 3 hours and acetone was added thereto. Then insoluble matters were filtered with suction, treated with 300 ml of water and heated at 80° C. Insoluble solids were removed by filtration. After the filtrate was made alkaline (pH 11) with 1N-KOH under ice-cooling, the deposited solids were filtered with suction, washed with water and recrystallized from methanol-water to afford 1.46 g (yield 54%) of 4-(4-methylphenyl)-2-thiazolamine as pale yellowish crystals, m.p.130° C.

reactant | thiourea | 28.6 mmol, 2.18 g | NC(=S)N | CH4N2S
reactant | p-methylacetophenone | 14.3 mmol, 1.92 ml | CC1=CC=C(C=C1)C(C)=O | C9H10O
reactant | sulfuryl chloride | 15.74 mmol, 1.264 ml | S(=O)(=O)(Cl)Cl | Cl2O2S
solvent | acetone | CC(=O)C | C3H6O
product | 4-(4-methylphenyl)-2-thiazolamine | 1.46 g, yield 54% | CC1=CC=C(C=C1)C=1N=C(SC1)N | C10H10N2S
